US05143643
Then, the acid chloride dissolved in toluene was dropped into a solution of 2.6 g of 4-(4'-pentyloxypentyloxy)phenol in 12 ml of pyridine at below 10° C. in 15 min. After the addition, the mixture was stirred at room temperature for 15 hours. After the reaction, the mixture was poured into cold water and extracted with ether. The ether layer was washed successively with 5%-hydrochloric acid, water, 5%-NaOH aqueous solution and water and dried with anhydrous Na2SO4. After distilling off the solvent, the product was recrystallized from ethanol to obtain 4.4 g of 4-(4'-pentyloxypentyloxy)phenyl 4-octyloxybenzoate.

reactant | 4-(4'-pentyloxypentyloxy)phenol | 2.6 g | C(CCCC)OC(CCCOC1=CC=C(C=C1)O)C | C16H26O3
reactant | water | O | H2O
reactant | pyridine | 12 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(4'-pentyloxypentyloxy)phenyl 4-octyloxybenzoate | 4.4 g | C(CCCCCCC)OC1=CC=C(C(=O)OC2=CC=C(C=C2)OCCCC(C)OCCCCC)C=C1 | C31H46O5
